US07371772B2
To a solution of methyl 8-bromo-1-(4-methoxybenzyl)-1,2,3,4-terahydro-1-benzoazocine-5-carboxylate (10.0 g), in toluene (50 ml) was added trifluoroacetic acid (50 ml), and the mixture was stirred at 65° C. for 2 hours. After distilling off the solvent under reduced pressure, water was added at 0° C. and the reaction mixture was neutralized with potassium carbonate and extracted with ethyl acetate. The organic layer was washed with aqueous saturated sodium bicarbonate solution and saturated brine, after which it was dried with magnesium sulfate. The solvent was distilled off under reduced pressure, and the resulting residue was purified by basic silica gel column chromatography (hexane:ethyl acetate=9:1). The resulting solid was washed with hexane to give methyl 8-bromo-1,2,3,4-terahydro-1-benzoazocine-5-carboxylate (6.59 g) as yellow crystals.

reactant | methyl 8-bromo-1-(4-methoxybenzyl)-1,2,3,4-terahydro-1-benzoazocine-5-carboxylate | 10.0 g | BrC=1C=CC2=C(C=C(CCCN2CC2=CC=C(C=C2)OC)C(=O)OC)C1 | C21H22BrNO3
reactant | trifluoroacetic acid | 50 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | methyl 8-bromo-1,2,3,4-terahydro-1-benzoazocine-5-carboxylate | 6.59 g | BrC=1C=CC2=C(C=C(CCCN2)C(=O)OC)C1 | C13H14BrNO2
